US06806273B1
(a) 6-Amino-2-[(phenylmethyl)thio]-5-thiocyanato-4-(1H)-pyrimidinone
6-Amino-2-[(phenylmethyl)thio]-4-(1H)-pyrimidinone (10.5 g) (prepared as described in WO 96/35678) and potassium thiocyanate (25 g) in dimethylformamide (200 mL) were heated together at 65° C. Pyridine (6.3 mL) was added and the solution cooled to 5° C. Bromine (2.2 mL) was added slowly and the reaction mixture stirred for 2 hours at 5-10° C. The reaction mixture was poured onto ice and water, stirred for 1 hour and the solid was filtered off. After washing with water and ether a pure sample was obtained after tituration with hot methanol.

reactant | 6-Amino-2-[(phenylmethyl)thio]-4-(1H)-pyrimidinone | 10.5 g | NC1=CC(N=C(N1)SCC1=CC=CC=C1)=O | C11H11N3OS
reactant | potassium thiocyanate | 25 g | [S-]C#N.[K+]
reactant | Pyridine | 6.3 mL | N1=CC=CC=C1 | C5H5N
reactant | Bromine | 2.2 mL | BrBr | Br2
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-Amino-2-[(phenylmethyl)thio]-5-thiocyanato-4-(1H)-pyrimidinone | NC1=C(C(N=C(N1)SCC1=CC=CC=C1)=O)SC#N | C12H10N4OS2
